US06410534B1
Step C: (R)-2-(tert-Butoxycarbonylamino)-N-{7-[(2-methoxyethoxy)methoxy]naphthalen-1-yl}-N-methylpropionamide
To (R)-N-(tert-butoxycarbonyl)alanine (1.09 g, 5.78 mmol) in dry CH2Cl2 (4 mL) under argon were added PYBOP (3.01 g, 5.78 mmol), 7-[(2-methoxyethoxy)methoxy]-1-(methylamino)naphthalene, as described above in Step B, (302 mg, 1.16 mmol), and N,N-diisopropylethylamine (1.00 mL, 5.75 mmol). The reaction mixture was stirred for 48 hrs, then partitioned between CH2Cl2 (500 mL) and 10% aqueous citric acid (150 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with a gradient of hexane −10% to 60% EtOAc to yield the desired product.

reactant | (R)-N-(tert-butoxycarbonyl)alanine | 5.78 mmol, 1.09 g | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | PYBOP | 5.78 mmol, 3.01 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 7-[(2-methoxyethoxy)methoxy]-1-(methylamino)naphthalene | COCCOCOC1=CC=C2C=CC=C(C2=C1)NC | C15H19NO3
reactant | N,N-diisopropylethylamine | 5.75 mmol, 1.00 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(tert-Butoxycarbonylamino)-N-{7-[(2-methoxyethoxy)methoxy]naphthalen-1-yl}-N-methylpropionamide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N(C)C1=CC=CC2=CC=C(C=C12)OCOCCOC)C | C23H32N2O6
